Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[O:5]=[C:6]([O:7][H:12])[H:15],43.7915852325794
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[C:7]([H:15])=[C:6]=[C:4]1[O:5][H:14])([H:8])([H:9])[H:10],117.245347034778
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2][H:8])([C:4]([O:3][C:5](=[O:6])[H:11])([H:9])[H:10])[H:7],90.71028741134
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@:2]1([O:3][H:15])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C@@:6]1([O:7][H:16])[H:14])([H:8])[H:9],81.94571715209041
[C:1](=[C:2]1[C-:3]([H:11])[N:4]([H:12])[C+:5]([N:6]([H:13])[H:14])[C:7]1([H:10])[H:15])([H:8])[H:9]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10],48.26349452402749
[C:4](#[C:5][C:6]#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],49.50247083311471
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1](/[C:2](=[C:3](\[C:4]([O:5][H:11])([H:8])[H:10])[H:9])[H:7])[H:6],60.480457526912495
[C:1]([O:2][C:3]([O-:4])=[C+:5][O:7][H:15])([H:8])([H:9])[H:10].[C:6]([H:11])([H:12])([H:13])[H:14]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],11.204485136147703
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([N:4]=[C:3]=[C:2]([C:5]#[N:6])[H:8])[H:7],79.5714675201905
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[H:7][H:8].[O+:1]1=[C-:2][C@@:6]2([H:10])[C@@:4]([H:9])([C:3]1)[O:5]2,95.55335026379757
[O:1]1[C:2]([H:8])([H:9])[C:3][C@:4]1([C:5]#[N:6])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],26.935815284018517
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C@@:5]([C:3](=[O:4])[H:11])([O:6][H:14])[H:13])[H:10])([H:7])[H:9].[H:8][H:12],36.9351404131955
[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3][C:4]1([H:6])[H:10],93.3521677186268
[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:9]>>[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C-:5]=[O+:6]1)[H:9].[H:11][H:12],80.937533488949
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:2]1[C:3]([H:8])=[C-:4][N+:5]([H:9])([H:10])[C:6]([H:11])=[N:7]1,97.3642298635735
[O:1]([C:2]([C:3](=[C:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7],2.2225056970333057
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][O:7][C:6]1([H:13])[N:4]([H:11])[C:3][N:5]1[H:12])([H:8])([H:9])[H:10],137.366844112093
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:6]=[N:7][H:13].[N:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:10])[H:11])([H:8])[H:9],71.0708768288744
[N:1]([C:2](=[C:3]=[C:4]=[O:5])[H:8])=[N+:7]=[N-:6]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],40.011192566262324
[C:2](=[O:3])=[O:4].[C:5]=[N:6][H:10].[N:1]([H:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],37.3361291939439
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2][C:3](=[O:4])[C:5]([H:11])([H:12])[C@@:6]1([O:7][H:9])[H:13],78.9567014174921
[N:1](=[C:2](/[C:3]([O:4][C:5](=[O:6])[H:11])([H:8])[H:9])[H:10])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],73.00230744259827
[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:9]>>[C:1]1([H:7])([H:8])[O:2]/[C:3]1=[C:4]1/[C:5]([H:11])([H:12])[O:6]1.[H:9][H:10],111.01039272110701
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:4]=[C:5]([O:6][H:10])[H:14]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],29.770656077659055
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([C:7](=[C:6]([H:13])[H:14])[H:15])[H:9])[H:8],64.1261702494649
[C:1]([C:2]([N:3]([C:4]1=[C:6]=[N+:7]([H:14])[N-:5]1)[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.419823385060795
[C:1]([O:2][C:3](=[C:4]([H:10])[H:12])[C:5]([H:13])([H:14])[H:15])([H:6])([H:7])[H:8].[H:9][H:11]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8],77.92003823134598
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][O:4][C:5]#[N:6])([H:7])([H:8])[H:9],85.0682814450013
